US07589232B2
Step b) Formation of 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(2-naphthoyl)amino]-2-hydroxybenzoic acid
The titled compound was prepared following the procedure C using N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-2-naphthamide and NaOH 5M aq. in the presence of EtOH as a white powder (51%). 1H NMR (CDCl3/MeOD 35:1, 300 MHz) δ 7.92 (s, 1H), 7.73 (d, J=8.7 Hz, 2H), 7.62 (d, J=8.7 Hz, 1H), 7.54 (s, 1H), 7.45 (m, 6H), 7.32 (m, 3H), 7.16 (d, J=7.9 Hz, 2H), 6.94 (d, J=8.3 Hz, 1H), 6.68 (d, J=8.6 Hz, 1H), 5.13 (s, 2H), 2.62 (t, J=7.7 Hz, 2H), 1.60 (m, 2H), 1.35 (m, 2H), 0.93 (t, J=7.2 Hz, 3H). M− (ESI): 552.3; M+ (ESI): 554.2. HPLC, Rt: 5.53 min (Purity: 98.9%).

reactant | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-2-naphthamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C2=CC3=CC=CC=C3C=C2)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C40H35NO4
reactant | NaOH | 5M | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(2-naphthoyl)amino]-2-hydroxybenzoic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(=O)C2=CC3=CC=CC=C3C=C2)C=C1 | C37H31NO4
